Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
trauma to face
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old female otherwise healthy
presenting as a transfer from ___ after an assault overnight. 
She
was with her girlfriend last night when she was accosted and
punched in the face multiple times, thrown down 4 flights of
stairs, and kicked in the head. She was down for an unknown
period of time with LOC. She woke up disoriented this morning,
was helped by a friend but she did not recognize her friend. She
was taken to ___ first where CT Head showed a temporal bone
fracture with adjacent blood, concerning for EDH or SDH. CT
maxillofacial showed a right lateral superior orbital wall. She
was transferred to ___ for further evaluation.

Given the findings, Neurosurgery was consulted initially, who
recommended a repeat CT head. Plastic surgery was consulted for
the facial injuries, who recommended ENT and Ophthalmology
consults for temporal bone and potential globe injuries,
respectively. Trauma surgery is consulted for trauma evaluation.

Current complaints include headache, R eye pain with movement, R
blurred vision. Also having knee pain on the R side. Pt does not
recall the events between the altercation and waking up this
morning outside of the house. No history of trauma. Never felt
unsafe in this relationship before.

 
Past Medical History:
Past Medical History:
Asthma

Past Surgical History:
denies

 
Social History:
___
Family History:
Family History:
No bleeding or clotting diatheses in the family.

 
Physical Exam:
GEN: A&Ox3,  NAD
HEENT: Tenderness and soft tissue edema over temporal region. No 
hemotympanum b/l. 

Eye Exam:
mild eyelid swelling
No V1 or V2 hypesthesia
Orbital rim palpation: No point-tenderness, deformities, and
step-offs ___

Anterior Segment (Penlight or portable slitlamp)
Lids/Lashes/Lacrimal:    
  OD: Normal                             
  OS: Normal
Conjunctiva:                  
  OD: mild sub conj hem temporally                
  OS: White and quiet
Cornea:                       
  OD: Clear, no epithelial defects           
  OS: Clear, no epithelial defects
Anterior Chamber:         
  OD: Deep and quiet. No hyphema.                  
  OS: Deep and quiet
___:                              
  OD: Flat                                  
  OS: Flat
Lens:                           
  OD: Clear                                
  OS: Clear

Fundus (Indirect Ophthalmoscopy using 20D lens): Dilation
approved by 
PLEASE NOTE, PUPILS WILL REMAIN DILATED FOR AT LEAST ___ HRS

Media/Vitreous: 
OD: Clear
OS: Clear 
Discs: 
OD: pink, sharp margins
OS: pink, sharp margins
Maculae: 
OD: flat, normal foveal light reflex
OS: flat, normal foveal light reflex
Periphery
OD: no heme, breaks or other notable lesions
OS: no heme, breaks or other notable lesions

Neck: Full ROM, trachea midline, supple
Chest: no chest wall tendernes
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, no rebound or guarding, no
palpable masses
Back:  no step-off or deformity, no ecchymosis; no CVAT
Ext: No ___ edema, ___ warm and well perfused, small abrasion and
ecchymosis over R knee with full active and passive non-painful
ROM
Neuro: CNII-XII intact b/l, strength ___ u/l b/l, sensation
intact
 
Pertinent Results:
___ 11:30AM BLOOD WBC-8.7 RBC-4.03 Hgb-12.7 Hct-38.5 MCV-96 
MCH-31.5 MCHC-33.0 RDW-11.1 RDWSD-39.0 Plt ___
___ 09:48AM BLOOD Neuts-80.4* Lymphs-10.3* Monos-8.5 
Eos-0.0* Baso-0.3 Im ___ AbsNeut-11.90* AbsLymp-1.52 
AbsMono-1.25* AbsEos-0.00* AbsBaso-0.04
___ 11:30AM BLOOD Glucose-78 UreaN-5* Creat-0.6 Na-142 
K-3.9 Cl-104 HCO3-22 AnGap-16
___ 09:48AM BLOOD Glucose-86 UreaN-7 Creat-0.5 Na-140 K-3.6 
Cl-103 HCO3-16* AnGap-21*
___ 11:30AM BLOOD Calcium-9.1 Phos-3.6 Mg-1.9

 CT HEAD W/O CONTRAST Study Date of ___ 11:04 AM 

 
IMPRESSION: 
  
  
1. 4 x 7 mm focal hyperdensity in the lateral left temporal lobe 
surrounded by mild edema, concerning for contusion/small 
intraparenchymal hemorrhage.  This is stable to slightly more 
conspicuous compared to outside hospital study performed earlier 
today. 
2. Fracture of the right sphenoid bone with extension to the 
lateral wall of the right orbit, and extending medially through 
the lamina papyracea.  No fracture of the petrous portion of the 
right temporal bone. 
3. Subtle linear extra-axial appearing hyperdensity along the 
anterior right temporal region may be artifactual. 

 
Brief Hospital Course:
Ms ___ was admitted to the hospital on ___ after 
she sustained a trauma to the head and face. A head CT showed: 
1. 4 x 7 mm focal hyperdensity in the lateral left temporal lobe 
surrounded by 
mild edema, concerning for contusion/small intraparenchymal 
hemorrhage.  This 
is stable to slightly more conspicuous compared to outside 
hospital study 
performed earlier today. 
2. Fracture of the right sphenoid bone with extension to the 
lateral wall of 
the right orbit, and extending medially through the lamina 
papyracea.  No 
fracture of the petrous portion of the right temporal bone. 
3. Subtle linear extra-axial appearing hyperdensity along the 
anterior right 
temporal region may be artifactual. 

Neurosurgery service was consulted and they recommended follow 
up as an outpatient at ___. 
PRS service was consulted who recommended conservative 
management and follow up at the clinic. 
ENT service was consulted for temporal bone Fx and recommended 
audiogram as outpatient. 
ophthalmology service was consulted and examined the patient, 
who recommended conservative management with artificial tears 
and follow up with them as outpatient if symptoms worsen. 

Her pain was managed initially with narcotics which was quickly 
transitioned to oral Tylenol and ibuprofen which she will 
continue after discharge. she remained alert and oriented 
throughout her stay. 

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 
GI/GU/FEN:  diet was advanced sequentially to a Regular diet, 
which was well tolerated. Patient's intake and output were 
closely monitored
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.
At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
none
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H  
2.  Docusate Sodium 100 mg PO BID  
3.  Ibuprofen 600-800 mg PO Q8H  
4.  Senna 8.6 mg PO BID:PRN Constipation - First Line  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Fracture of the right sphenoid bone with extension to the 
lateral wall of the right orbit, and extending medially through 
the lamina papyracea 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to the Acute Care Trauma Surgery Service on 
___ after an injury to your face

1.  Head of the bed elevation x 1 week
2.  Ice packs/cold compress x 48 hours
3.  Sinus precautions x 1 week

Sinus Precautions:

AVOID
___ blowing your nose
It is best to wipe away nasal secretions carefully. After 2 
weeks, if you must blow your nose, blow gently through both 
sides at the same time. Do not pinch your nose; do not blow just 
one side at a time.
___ sneezing
If you must sneeze, keep your mouth open and do not pinch your 
nose closed.
___ sucking
Do not drink through a straw. Do not smoke.
___ blowing
Do not play a wind instrument. Do not blow up balloons.
___ pushing or lifting
Do not lift or push objects weighing more than 20 pounds.
___ bending over
Keep your head above the level of your heart. Sleep with your 
head slightly raised.
Notify your doctor if you bleed from your nose.
If you see bleeding from your nose, have neck stiffness, or 
increased sensitivity to bright light, or severe headache, call 
the clinic immediately.

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___